US06441017B1
Step C: (S)-N-[1-(7-Hydroxynaphthalen-1-yl)-2-oxopyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide
A mixture of lithium [1-(triphenylmethyl)-1H-imidazol-4-yl]acetate, as described above in Step B, (4.40 g, 11.6 mmol), (S)-3-amino-1-[7-(tert-butyldimethylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidine hydrochloride, as described above in Step A (3.86 g, 9.84 mmol), HOBT (1.60 g, 11.8 mmol), EDC (2.30 g, 12.0 mmol), and N,N-diisopropylethylamine (6.00 mL, 34.4 mmol) was stirred in DMF (80 mL) at ambient temperature for 18 hours. The solvent was removed under reduced pressure and the residue was partitioned between saturated aqueous NaHCO3 (50 mL) and CHCl3 (75 mL). The aqueous layer was extracted further with CHCl3 (2×50 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was dissolved in dry THF (75 mL) and TBAF (5 mL of a 1.0 M solution in TBF, 5 mmol) was added. The resulting mixture was stirred at ambient temperature for 30 min, then quenched with saturated aqueous NH4Cl (30 mL) and most of the TBF was removed under reduced pressure. The residual mixture was poured into saturated aqueous NaHCO3 (50 mL) and CH2Cl2 (100 mL). The aqueous layer was extracted further with CH2Cl2 (2×50 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with a gradient of CH2Cl2—2% to 4% MeOH to yield the titled product.

reactant | lithium [1-(triphenylmethyl)-1H-imidazol-4-yl]acetate | C1(=CC=CC=C1)C(N1C=NC(=C1)CC(=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | (S)-3-amino-1-[7-(tert-butyldimethylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidine hydrochloride | 11.6 mmol, 4.40 g | Cl.N[C@@H]1C(N(CC1)C1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)=O
reactant | HOBT | 11.8 mmol, 1.60 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 12.0 mmol, 2.30 g
reactant | N,N-diisopropylethylamine | 34.4 mmol, 6.00 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | (S)-N-[1-(7-Hydroxynaphthalen-1-yl)-2-oxopyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide | OC1=CC=C2C=CC=C(C2=C1)N1C([C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C38H32N4O3
